US06897224B2
1-(Quinolin-4-ylamino)-4-(5-fluoro-2-hydroxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 2, 200 mg (0.46 mmol) of 1-(quinolin-4-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol and 9 ml of 1 M boron tribromide-CH2Cl2 solution are reacted. After chromatography on silica gel with CH2Cl2-methanol (0-15%), 138 mg of product is obtained.

reactant | 1-(quinolin-4-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.46 mmol, 200 mg | N1=CC=C(C2=CC=CC=C12)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C23H24F4N2O2
reactant | boron tribromide CH2Cl2 | 1 M, 9 ml | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 methanol | C(Cl)Cl.CO
product | 1-(Quinolin-4-ylamino)-4-(5-fluoro-2-hydroxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 138 mg | N1=CC=C(C2=CC=CC=C12)NCC(CC(C)(C)C1=C(C=CC(=C1)F)O)(O)C(F)(F)F | C22H22F4N2O2
